US06465467B1
Step 1: 2-(3-Trifluoromethylphenoxy)ethanol.
The title compound was prepared according to the procedure of Example 114, Step 1 starting from 3-trifluoromethylphenol (3.89 g, 24 mmol) and ethylene carbonate (1.76 g, 20 mmol) with the exception that no DMF was used. Oil; yield 64%. MS m/z 206 (M)+.

reactant | 3-trifluoromethylphenol | 24 mmol, 3.89 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | ethylene carbonate | 20 mmol, 1.76 g | C1(OCCO1)=O | C3H4O3
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(3-Trifluoromethylphenoxy)ethanol | yield 64% | FC(C=1C=C(OCCO)C=CC1)(F)F | C9H9F3O2
